US04096253
A solution of Br2 (0.4 g, 2.5 mM) in 10 ml of carbon tetrachloride is added over a period of 5 min to a suspension of 1,17-diacetoxy-3-methoxyestra-1,3,5(10),16-tetraene (0.95 g, 2.5 mM), potassium carbonate (0.53 g) and 40 ml of carbon tetrachloride at 0°. After an additional 5 min the colorless suspension is added to a solution of NaHSO3 (1 g) in 75 ml of H2O. The layers are separated and the aqueous layer is extracted with 3 × 25 ml of chloroform, the organic layers are combined and evaporated in vacuo after drying with MgSO4. Trituration of the residue with a small amount of methanol gives 1-acetoxy-16α-bromo-3-methoxyestra-1,3,5(10)-trien-17-one, yield 0.94 g (90%); m.p. 188°-190° (methanol).

reactant | Br2 | 2.5 mM, 0.4 g | BrBr | Br2
reactant | 1,17-diacetoxy-3-methoxyestra-1,3,5(10),16-tetraene | 2.5 mM, 0.95 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C12)OC(C)=O)OC | C23H28O5
reactant | potassium carbonate | 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaHSO3 | 1 g | OS(=O)[O-].[Na+]
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | H2O | 75 ml | O | H2O
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-acetoxy-16α-bromo-3-methoxyestra-1,3,5(10)-trien-17-one | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C12)=O)Br)OC | C21H25BrO4
